US09056874B2
1-Tosyl-1H-indol-4-amine
To 4-nitro-1-tosyl-1H-indole (20.2 g, 63.9 mmol) in EtOAc (639 mL) was added 10% Pd/C (6.80 g, 6.39 mmol) and the mixture was stirred under hydrogen. After 4 hours the reaction was filtered through Celite®, rinsing with EtOAc. The filtrate was concentrated and purified by flash chromatography (0-70% EtOAc in heptanes) to provide the title compound. MS (ESI+) m/z 287.1 (M+H).

reactant | 4-nitro-1-tosyl-1H-indole | 63.9 mmol, 20.2 g | [N+](=O)([O-])C1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C15H12N2O4S
solvent | EtOAc | 639 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 6.39 mmol, 6.80 g | [Pd] | Pd
product | 1-Tosyl-1H-indol-4-amine | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC=2C(=CC=CC12)N | C15H14N2O2S
